US05071999
a) Ethyl N-(2-chloroallyl)-N-(2,2-dimethoxyethyl) -carbamate
115 g (0.65 mol) of ethyl N-(2,2-dimethoxyethyl) -carbamate, 130 g of powdered potassium hydroxide and 2 g of triethylbenzylammonium chloride are initially introduced into 650 ml of toluene and 142 g (0.7 mol) of 2-chloroallyl iodide are added dropwise at room temperature. After stirring overnight, a gas chromatogram showed incomplete conversion, hence 65 g of powdered potassium hydroxide and 1 g of triethylbenzylammonium chloride were added again and a further 71 g (0.35 mol) of 2-chloroallyl iodide were added dropwise. After stirring overnight at room temperature, the salts were filtered off with suction, the filtrate was washed with saturated sodium chloride solution, dried over magnesium sulphate and concentrated, and the residue was distilled.

reactant | ethyl N-(2,2-dimethoxyethyl) -carbamate | 0.65 mol, 115 g | COC(CNC(OCC)=O)OC | C7H15NO4
reactant | potassium hydroxide | 130 g | [OH-].[K+]
reactant | 2-chloroallyl iodide | 0.7 mol, 142 g | ClC(CI)=C | C3H4ClI
reactant | potassium hydroxide | 65 g | [OH-].[K+]
reactant | 2-chloroallyl iodide | 0.35 mol, 71 g | ClC(CI)=C | C3H4ClI
catalyst | triethylbenzylammonium chloride | 2 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
catalyst | triethylbenzylammonium chloride | 1 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | toluene | 650 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl N-(2-chloroallyl)-N-(2,2-dimethoxyethyl) -carbamate | ClC(CN(C(OCC)=O)CC(OC)OC)=C | C10H18ClNO4
